data/mechanism_extracts/ChemCommun/10.1039_d2cc06246a_si_1.json
{"doi": "10.1039_d2cc06246a_si_1", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Synthesis of vicinal azidoacetamides from alkenes using TMSN3, probed by a radical clock experiment with a vinylcyclopropane substrate.", "mechanism_family": ["radical_polar_crossover", "cation_initiated"], "electrochemical_role": null, "key_intermediates": [{"name": "carbon-centered radical at benzylic position of vinylcyclopropane (pre ring-opening)", "smiles": null, "role": "transient"}, {"name": "ring-opened homoallyl/benzyl radical after cyclopropane fragmentation", "smiles": null, "role": "reactive"}, {"name": "ring-opened carbocation trapped by acetonitrile (Ritter-type) en route to acetamide", "smiles": null, "role": "reactive"}], "electron_flow": "Addition to the styryl alkene generates a benzylic radical that triggers ring-opening of the adjacent cyclopropane to give a distal homoallyl radical; subsequent oxidation to a cation is intercepted by MeCN (Ritter) and azide delivery from TMSN3 gives the linear 1,4-azidoacetamide 31.", "rate_determining_step": null, "probe_reagents": [{"name": "1-(2-phenylcyclopropyl)vinyl)benzene (30)", "smiles": "C(=C)(c1ccccc1)C2CC2c3ccccc3", "purpose": "radical_clock", "observation": "Ring-opened acyclic product 31 (N-(4-azido-1,4-diphenylbut-3-en-1-yl)acetamide) isolated in 17% yield, 4.4:1 dr, consistent with a radical intermediate that opens the cyclopropane."}], "evidence_types_used": ["radical_clock", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Only the radical clock experiment is shown on this page; the ring-opened product implicates a carbon radical intermediate, but a radical-polar crossover is suggested by formation of the acetamide moiety (Ritter-type trapping of a cation by acetonitrile)."}
